US08420670B2
(3-Chloro-4-trifluoromethylbenzyl)-(8-methoxy-2-methylquinolin-4-yl)-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4-chloro-8-methoxy-2-methylquinoline and 3-chloro-4-trifluoromethylbenzylamine.

reactant | 4-chloro-8-methoxy-2-methylquinoline | ClC1=CC(=NC2=C(C=CC=C12)OC)C | C11H10ClNO
reactant | 3-chloro-4-trifluoromethylbenzylamine | ClC=1C=C(CN)C=CC1C(F)(F)F | C8H7ClF3N
product | (3-Chloro-4-trifluoromethylbenzyl)-(8-methoxy-2-methylquinolin-4-yl)-amine | ClC=1C=C(CNC2=CC(=NC3=C(C=CC=C23)OC)C)C=CC1C(F)(F)F | C19H16ClF3N2O
